US07417157B2
7.4 g (about 19.0 mmol) of a mixture of (±)-(4aR*, 9bS*)-7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,4a,9b-tetrahydrodibenzofuran and (±)-(4aR*, 9bS*)-7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,4,4a,9b-tetrahydrodibenzofuran in 160 ml of ethyl acetate/ethanol mixture (3:1) are hydrogenated at 80° C. in the presence of 3.70 g of Raney nickel and 1.50 g of ion exchanger (weakly H-acidic) under hydrogen pressure (4.4 bar). After 18 h, the catalyst is filtered off, and the filtrate is concentrated to dryness. The crude product is recrystallised successively from isopropanol, n-heptane and ethanol, giving (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid (melting point 126° C.).

reactant | 7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,4a,9b-tetrahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)C=C(CC3)C3=C(C(=C(C=C3)OCC)F)F)C=C1)F | C22H21F3O3
reactant | 7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,4,4a,9b-tetrahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(=CC3)C3=C(C(=C(C=C3)OCC)F)F)C=C1)F | C22H21F3O3
solvent | ethyl acetate ethanol | 160 ml | C(C)(=O)OCC.C(C)O
catalyst | Raney nickel | 3.70 g | [Ni] | Ni
product | 7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C3=C(C(=C(C=C3)OCC)F)F)C=C1)F | C22H23F3O3
